US04540703
4-(1-Methyl-1,2,3,4-tetrazol-5-yl)thio-butyric acid (45 mmole) is dissolved in tetrahydrofuran (50 ml), and thereto is added DBU (50 mmole). To the mixture is added dropwise with stirring isobutyl chloroformate (50 mmole) under ice-cooling and the mixture is stirred at room temperature for 30 minutes. To the mixture is added dropwise 2-(3,4-dimethoxyphenyl)ethylamine (54 mmole) and the mixture is further stirred at room temperature for 2 hours. After the solvent is distilled off under reduced pressure, the resulting residue is extracted with chloroform. The chloroform layer is washed with 5% aqueous hydrochloric acid, an aqueous saturated sodium hydrogen carbonate solution and an aqueous saturated sodium chloride solution and dried over anhydrous sodium sulfate. After distilling off chloroform, the residue is subjected to column chromatography (Wakogel C-200, eluting agent, chloroform) to isolate N-[2-(3,4-dimethoxyphenyl)ethyl]-4-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-butyramide (yield: 41%) which is recrystallized from hexane-chloroform, colorless flaks, m.p. 70.5°-71.5° C.

reactant | 4-(1-Methyl-1,2,3,4-tetrazol-5-yl)thio-butyric acid | 45 mmole | CN1N=NN=C1CCCC(=S)O | C6H10N4OS
reactant | DBU | 50 mmole | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | isobutyl chloroformate | 50 mmole | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-(3,4-dimethoxyphenyl)ethylamine | 54 mmole | COC=1C=C(C=CC1OC)CCN | C10H15NO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-[2-(3,4-dimethoxyphenyl)ethyl]-4-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-butyramide | yield: 41% | COC=1C=C(C=CC1OC)CCNC(CCCC1=NN=NN1C)=S | C16H23N5O2S
